US06355633B1
3-(Morpholine-4-sulfonyl)-benzoic Acid
Commercially available 3-(chlorosulfonyl)benzoic acid (3 g, 13.5 mmol) was suspended in dichloromethane (50 mL). Diisopropylethylamine (5.19 mL, 30 mmol) and morpholine (1.67 mL, 21 mmol) were added slowly. After 2 h, the solvent was removed under reduced pressure. The residue was dissolved in ethyl acetate and washed with 3N HCl three times. The ethyl acetate phase was dried over magnesium sulfate and the solvent was removed under reduced pressure, to provide the title product (2.97 g, 81%) as a white solid. 1HNMR (DMSO-d6) δ8.28 (d, J=8 Hz, 1H), 8.20 (s, 1H), 8.01 (d, 8 Hz, 1H), 7.83 (t, J=8 Hz, 1H), 3.91(m, 4H), 3.12 (M, 4H). MS (EI-NEG):[M+] 270.

reactant | 3-(chlorosulfonyl)benzoic acid | 13.5 mmol, 3 g | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C7H5ClO4S
reactant | Diisopropylethylamine | 30 mmol, 5.19 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | morpholine | 21 mmol, 1.67 mL | N1CCOCC1 | C4H9NO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 3-(Morpholine-4-sulfonyl)-benzoic Acid | 2.97 g, 81% | N1(CCOCC1)S(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C11H13NO5S
